US07425551B2
N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide
Using N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-malonamic acid and 3,3,4,4,4-pentafluorobutylamine, the title compound was prepared in the same manner as described for example 1c. Light yellow, viscous oil (88%). MS: m/e=620(M+H+).

reactant | N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-malonamic acid | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)O)(C)O)=O)C=CC=C3)C=CC=C2 | C27H26N2O6
reactant | 3,3,4,4,4-pentafluorobutylamine | FC(CCN)(C(F)(F)F)F | C4H6F5N
product | N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)NCCC(C(F)(F)F)(F)F)(C)O)=O)C=CC=C3)C=CC=C2 | C31H30F5N3O5
